US06432976B1
A mixture of 0.18 g of 3-benzyl-8-aza-bicyclo[3.2.1]octane, 0.30 g of 3-(4-benzyloxy-phenyl)-propionaldehyde, 5 mL of 1,2-dichloroethane and 0.3 g of sodium triacetoxyborohydride was stirred at room temperature for 48 h. The reaction mixture was diluted with 50 mL chloroform and 10 mL saturated aqueous Na2CO3 and the layers separated. The aqueous layer was extracted with 2×25 mL of chloroform and the combined organic layers dried over magnesium sulfate and concentrated under reduced pressure. Purification by chromatography eluting with 80:20 EtOAc:MeOH gave 0.28 g of 3-benzyl-8-[3-(4-benzyloxy-phenyl)-propyl]-8-aza-bicyclo[3.2.1]octane as a 2:1 mixture of exo:endo isomers. Hydrogenation at 1 atm over 0.2 g of 10% Pd/C in 50 mL of ethanol gave 0.17 g of 4-[3-(3-benzyl-8-aza-bicyclo[3.2.1]oct-8-yl)-propyl]-phenol as a 2:1 mixture of exo:endo isomers: MS (m+1)=336.4; 1H NMR (400 MHz, CDCl3) 7.25-7.1 (complex, 5H), 6.8 (d, 2H), 6.5 (d, 2H), 3.35 (br s, 2H), 2.75 (d, 0.6 H), 2.5-2.3 (complex, 5.4 H), 2.1 (m, 2H), 1.95 (m, 1H), 1.85 (m, 3H), 1.5 (m, 3H), 1.4 (m, 2H).

reactant | 3-benzyl-8-aza-bicyclo[3.2.1]octane | 0.18 g | C(C1=CC=CC=C1)C1CC2CCC(C1)N2 | C14H19N
reactant | 3-(4-benzyloxy-phenyl)-propionaldehyde | 0.30 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC=O | C16H16O2
reactant | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
reactant | sodium triacetoxyborohydride | 0.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | Na2CO3 | 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 3-benzyl-8-[3-(4-benzyloxy-phenyl)-propyl]-8-aza-bicyclo[3.2.1]octane | 0.28 g | C(C1=CC=CC=C1)C1CC2CCC(C1)N2CCCC2=CC=C(C=C2)OCC2=CC=CC=C2 | C30H35NO
